US07449475B2
(iii) 1′-Benzyl-4H-spiro[chromene-3,4′-piperidine]
Sodium hydride (350 mg, 7.0 mmol, 50% disp in oil) was washed three times with heptane, under nitrogen atmosphere, and then dissolved in tetrahydrofuran (50 mL). A solution of [1-benzyl-4-(2-fluorobenzyl)piperidin-4-yl)methanol (1 g, 3.2 mmol) in tetrahydrofuran (30 mL) was added and the resulting mixture was refluxed for 3 hrs. The cooled solution was partitioned between water and ethyl acetate and the organic layer was dried over magnesium sulphate and concentrated. The crude product was purified on silica (dichloromethane/methanol) to give 0.83 g (89%) of the subtitle compound.

reactant | Sodium hydride | 7.0 mmol, 350 mg | [H-].[Na+]
reactant | [1-benzyl-4-(2-fluorobenzyl)piperidin-4-yl)methanol | 3.2 mmol, 1 g | C(C1=CC=CC=C1)N1CCC(CC1)(CC1=C(C=CC=C1)F)CO | C20H24FNO
solvent | heptane | CCCCCCC | C7H16
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | 1′-Benzyl-4H-spiro[chromene-3,4′-piperidine] | 0.83 g, 89% | C(C1=CC=CC=C1)N1CCC2(CC1)COC1=CC=CC=C1C2 | C20H23NO
